US05420151
3-(Methyl(3-phenylpropyl)amino)-5-hydroxychroman
3-Amino-5-methoxychroman (Thorberg et al. Acta Pharm. Suec. 24(1987)) (2.0 g, 9.28 mmol) was dissolved in methanol (50 ml) and pH was adjusted to 6.0 with acetic acid. The solution was cooled to 0° C. and sodium cyanoborohydrid (0.87 g, 13.8 mmol) was added together with 3-phenylpropanal (1.22 ml, 9.28 mmol), the cooling was withdrawn and the solution was stirred at ambient temperature for 4 hours. Paraformaldehyde (0.42 g, 14 mmol) and sodium cyanoborohydride (0.87 g, 9.28 mmol) was added and stirring was continued overnight at ambient temperature. The solution was diluted with toluene and washed with water. Drying with sodium sulfate and evaporation to dryness gives an oil. The oil was purified by flash chromatography on silica gel by elution with ethylacete/hexane 1:4. The collected fractions were evaporated to give an oil. The oil was treated with HBr (47% aq.) at 120° C. for 1 hour. The solution was cooled and neutralised with sodium hydroxide and extracted with toluene. The organic phase was dried and evaporated to give the title compound as an oil. 13C-NMR: 22.502 29.09 33.47 38.19 53.66 67.75 102.04 109.20 110.46 125.78 127.05 128.36 142.20 155.29 158.28.

reactant | 3-Amino-5-methoxychroman | 9.28 mmol, 2.0 g | NC1COC2=CC=CC(=C2C1)OC | C10H13NO2
reactant | sodium cyanoborohydrid | 13.8 mmol, 0.87 g | C(#N)[BH3-].[Na+]
reactant | 3-phenylpropanal | 9.28 mmol, 1.22 ml | C1(=CC=CC=C1)CCC=O | C9H10O
reactant | Paraformaldehyde | 14 mmol, 0.42 g | C=O | CH2O
reactant | sodium cyanoborohydride | 9.28 mmol, 0.87 g | C(#N)[BH3-].[Na+]
reactant | HBr | Br | BrH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-(Methyl(3-phenylpropyl)amino)-5-hydroxychroman | CN(C1COC2=CC=CC(=C2C1)O)CCCC1=CC=CC=C1 | C19H23NO2
